US04436914
2-(1,4-benzodioxan-2-yl)imidazoline acetate (1.0 g) is dissolved in a solution of 1 ml 50% aqueous sulfuric acid in 10 ml ethanol, and the solution evaporated to dryness. The product is suspended in ethanol and filtered, air dried and recrystallized from methanol/acetone to yield 2-(1,4-benzodioxan-2-yl)imidazoline: HSO4.

reactant | 2-(1,4-benzodioxan-2-yl)imidazoline acetate | 1.0 g | C(C)(=O)O.O1C(COC2=C1C=CC=C2)C=2NCCN2
solvent | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-(1,4-benzodioxan-2-yl)imidazoline | O1C(COC2=C1C=CC=C2)C=2NCCN2 | C11H12N2O2
